US04618683
1-Cyano-5,6-dimethoxy-3,4-dihydronaphthalene
A solution of 5,6-dimethoxy-1-tetralone (30 g, 0.14 mole), trimethylsilylcyanide (15.8 g, 0.156 mole), ca. 15 mLs dry benzene, and catalytic AlCl3 was stirred under N2 at 70° (oil bath) for 15 hours. Benzene was removed (in-vacuo), 300 mL MeOH was added to the crude product, and the solution was stirred at 0°-10° C. as HCl was bubbled through the solution for 3 hours. Methanol was evaporated (in-vacuo) and ca. 500 mL water was added to the residue. The resultant solid was filtered, washed with water, and dried (under high-vacuum) to yield 29.2 g of yellow solid. (99.8%); M+ 215; mp 139°-40° C.

reactant | 5,6-dimethoxy-1-tetralone | 0.14 mole, 30 g | COC1=C2CCCC(C2=CC=C1OC)=O | C12H14O3
reactant | trimethylsilylcyanide | 0.156 mole, 15.8 g | C[Si](C)(C)C#N | C4H9NSi
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | ca. 15 mLs | C1=CC=CC=C1 | C6H6
product | 1-Cyano-5,6-dimethoxy-3,4-dihydronaphthalene | 29.2 g | C(#N)C1=CCCC2=C(C(=CC=C12)OC)OC | C13H13NO2
